US07485644B2
1-[4-(2,2,2-trifluoroethoxy)phenyl]piperazine (13.48 g, 50 mmol) was dissolved in DCM (500 mL) and cooled to 0° C. Triethylamine (29 mL, 0.2 mol) was added, followed by the dropwise addition of methanesulfonyl chloride (4.2 mL, 55 mmol). The reaction was then allowed to warm to room temperature and stir overnight, before being quenched by the addition of water. The layers were separated, and the organic phase dried (MgSO4), filtered and concentrated. The residue was recrystallised from hot ethanol to give pure 1-(methylsulfonyl)-4-[4-(2,2,2-trifluoroethoxy)phenyl]piperazine (3.3 g, 18%).

reactant | 1-[4-(2,2,2-trifluoroethoxy)phenyl]piperazine | 50 mmol, 13.48 g | FC(COC1=CC=C(C=C1)N1CCNCC1)(F)F | C12H15F3N2O
reactant | Triethylamine | 0.2 mol, 29 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 55 mmol, 4.2 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | 1-(methylsulfonyl)-4-[4-(2,2,2-trifluoroethoxy)phenyl]piperazine | 3.3 g, 18% | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)OCC(F)(F)F | C13H17F3N2O3S
